US04959360
A solution of N,N diethyl methanesulfonamide (4.7 g) in tetrahydrofuran (50 ml) was stirred at 20° C and treated with butyllithium in hexane (2.6 N, 27.9 ml) and diethyl chlorophosphate (5.2 ml). The cooling bath was removed and the mixture was stirred for 1.5 hours and poured onto ice. The resulting mixture was saturated with sodium bicarbonate, extracted with methylene chloride and the organic phase was washed with water, dried with sodium sulfate and magnesium sulfate, filtered and concentrated in vacuo to give diethyl [[(diethylamino)sulfonyl]methyl]-phosphonate.

reactant | N,N diethyl methanesulfonamide | 4.7 g | C(C)N(S(=O)(=O)C)CC | C5H13NO2S
reactant | butyllithium | C(CCC)[Li]
reactant | diethyl chlorophosphate | 5.2 ml | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexane | 2.6 N, 27.9 ml | CCCCCC | C6H14
product | diethyl [[(diethylamino)sulfonyl]methyl]-phosphonate | C(C)N(S(=O)(=O)CP(OCC)(OCC)=O)CC | C9H22NO5PS
